US09233920B2
To a vigorously stirred suspension of zinc (0.060 g, 0.913 mmol) in dimethylformamide (2.0 ml) was added a solution of 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (0.190 g, 0.365 mmol) in dimethylformamide (2.0 ml). The resulting mixture was warmed to 80° C. and 37% aqueous hydrochloric acid (3.0 ml) was added very slowly to minimize the foaming. After stirring for 2 hours the reaction was cooled to room temperature and quenched by adding a pH 7 buffer solution. The mixture was extracted with dichloromethane; the organic layer was washed with water (3×) and brine. The crude product was purified by flash chromatography (6% ethyl acetate in cyclohexane) to afford 4-[(R)-4-(3,5-dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester as a pale yellow oil (0.050 g, 29%).

reactant | 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 0.365 mmol, 0.190 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
reactant | hydrochloric acid | 3.0 ml | Cl | ClH
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 0.913 mmol, 0.060 g | [Zn] | Zn
product | 4-[(R)-4-(3,5-dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester | 0.050 g, 29% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NC[C@](C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C23H22Cl2F3NO2
